US09303040B2
To a solution of 4-chloro-5-ethyl-5,7-dihydrothieno[3,4-d]pyrimidine (0.3 g, 1.5 mmol) in n-BuOH (30 mL) was added 1-Boc-piperazine (0.8 g, 4.3 mmol), and the mixture was refluxed for 30 hours. The solvent was removed and the residue was purified by silica gel chromatography, eluting with Hexane/ethyl acetate (4:1-1:1) to give tert-butyl 4-(5-ethyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate (0.23 g, 44%). 1H NMR (CDCl3, 400 MHz) δ 8.54 (s, 1H), 4.61 (d, J=8.8 Hz, 1H), 4.10 (m, 2H), 3.80-3.60 (m, 8H), 2.02 (m, 1H), 1.60 (m, 1H), 1.49 (s, 9H), 0.95 (m, 3H). MS (APCI+) [M+H]+ 351.

reactant | 4-chloro-5-ethyl-5,7-dihydrothieno[3,4-d]pyrimidine | 1.5 mmol, 0.3 g | ClC=1C2=C(N=CN1)CSC2CC | C8H9ClN2S
reactant | 1-Boc-piperazine | 4.3 mmol, 0.8 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | n-BuOH | 30 mL | CCCCO | C4H10O
product | tert-butyl 4-(5-ethyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.23 g, 44% | C(C)C1SCC=2N=CN=C(C21)N2CCN(CC2)C(=O)OC(C)(C)C | C17H26N4O2S
